US06504034B2
To a solution of 3,4-dimethyl-2-formyl-pyrrole-1-carboxylic acid tert-butyl ester (3.18 g, 14.2 mmol) (prepared as described in Tietze et al., supra,) in dry THF(40 mL) was added ethynylmagnesium chloride (Aldrich, 0.5 M solution in THF, 57 mL, 28.5 mmol) dropwise at −65° C. and the reaction mixture was stirred at the same temperature for 0.5 hour. The cooling bath was then removed and the reaction mixture was stirred for another 2 hours to give a clear solution. The reaction was quenched by slowly adding EtOH (8 mL) and a saturated aqueous NH4Cl solution (26 mL) at 5° C. The mixture was extracted several times with ethyl acetate. The combined organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (silica gel, 95:5 hexanes/ethyl acetate) purification of the crude oil afforded 3,4-dimethyl-2-(1-hydroxy-prop-2-ynyl)-pyrrole-1-carboxylic acid tert-butyl ester as a yellow oil. (Yield 3.54 g, 100.0%).

reactant | 3,4-dimethyl-2-formyl-pyrrole-1-carboxylic acid tert-butyl ester | 14.2 mmol, 3.18 g | C(C)(C)(C)OC(=O)N1C(=C(C(=C1)C)C)C=O | C12H17NO3
reactant | ethynylmagnesium chloride | 28.5 mmol, 0.5 M, 57 mL | C(#C)[Mg]Cl
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3,4-dimethyl-2-(1-hydroxy-prop-2-ynyl)-pyrrole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=C(C(=C1)C)C)C(C#C)O | C14H19NO3
